US07205428B2
Methyl 3,5-bis(3,5-di-tertiary-butylbenzylthio)benzoate (52.0 g, 86.0 mmol) was dissolved in 300 ml of toluene. To this, was added dropwise a 70% solution of sodium dihydrobis(2-methoxyethoxy)aluminate in toluene (52 g, 180.0 mmol), maintaining the temperature at 35° C. or below and the resulting mixture was stirred for 2 hours under the same conditions. After completion of the reaction, the reaction mixture was poured into 500 ml of a cold 10% hydrochloric acid solution, followed by stirring for 10 minutes. The toluene layer was separated, dried over anhydrous magnesium sulfate and then concentrated. The resulting residue was then purified by means of chromatography with dichloromethane, giving 4.96 g of 3,5-bis(3,5-di-tertiary-butylbenzylthio)benzyl alcohol as a viscous substance.

reactant | Methyl 3,5-bis(3,5-di-tertiary-butylbenzylthio)benzoate | 86.0 mmol, 52.0 g | C(C)(C)(C)C=1C=C(CSC=2C=C(C(=O)OC)C=C(C2)SCC2=CC(=CC(=C2)C(C)(C)C)C(C)(C)C)C=C(C1)C(C)(C)C | C38H52O2S2
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 180.0 mmol, 52 g | C1(=CC=CC=C1)C | C7H8
product | 3,5-bis(3,5-di-tertiary-butylbenzylthio)benzyl alcohol | 4.96 g | C(C)(C)(C)C=1C=C(CSC=2C=C(CO)C=C(C2)SCC2=CC(=CC(=C2)C(C)(C)C)C(C)(C)C)C=C(C1)C(C)(C)C | C37H52OS2
